US07932246B2
6-Nitro-3-azabicyclo[3.1.0]hexane hydrochloride
To a solution of 3-benzyl-6-nitro-3-azabicyclo[3.1.0]hexane (2.47 g, 11.3 mmol) in 1,2-dichloroethane (5 ml) was added chloroethylchloroformate (1.83 ml, 16.9 mmol) at 0° C. The reaction mixture was heated to 55° C. for 4 h. Further chloroethylchloroformate (0.5 ml) was added and heating continued for 2 h. The reaction mixture was evaporated to dryness. MeOH (15 ml) was added and the reaction mixture was heated at 65° C. for 3 h. Conc. HCl (1 ml) was added and the reaction stirred at r.t. for 2 h. A grey precipitate had formed, this was isolated by filtration and washed with Et2O. The title compound was obtained as a grey powder (464 mg, 25%). 1H NMR (300 MHz, d6-DMSO) δ: 2.90 (2H, s), 3.3-3.6 (4H, m), 4.75 (1H, s), 9.50 (2H, br s).

reactant | 3-benzyl-6-nitro-3-azabicyclo[3.1.0]hexane | 11.3 mmol, 2.47 g | C(C1=CC=CC=C1)N1CC2C(C2C1)[N+](=O)[O-] | C12H14N2O2
reactant | chloroethylchloroformate | 16.9 mmol, 1.83 ml | ClCCOC(=O)Cl | C3H4Cl2O2
reactant | chloroethylchloroformate | 0.5 ml | ClCCOC(=O)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
product | 6-Nitro-3-azabicyclo[3.1.0]hexane hydrochloride | Cl.[N+](=O)([O-])C1C2CNCC12 | InChI=1S/C5H8N2O2.ClH/c8-7(9)5-3-1-6-2-4(3)5;/h3-6H,1-2H2;1H
